US07601844B2
Step 2: tert-Butyl 4-(4-chloro-2-(hydroxymethyl)phenyl)-4-hydroxypiperidine-1-carboxylate
A solution of (2-bromo-5-chlorophenyl)methanol (1.48 g, 6.68 mmol) in anhydrous THF (30 mL) was cooled to −78° C. and treated with the dropwise addition of n-BuLi (1.6 M in hexanes) (8.77 mL, 14.03 mmol), and the mixture was stirred for 30 minutes at −78° C., during which a thick white precipitate was observed. The dianion was treated with the dropwise addition of a solution of tert-butyl 4-oxopiperidine-1-carboxylate (1.465 g, 7.35 mmol) in THF (10 mL), and the mixture was stirred for 1 hour at −78° C., during which a yellow homogeneous solution was observed, then allowed to warm to room temperature and stirred overnight. The reaction was quenched with saturated ammonium chloride and the mixture was extracted 3× with ethyl acetate. The combined organic phases were washed with water and brine, then dried over sodium sulfate and concentrated in-vacuo. The residue was split into two equal fractions, and each was purified over a 40 g silica gel column via ISCO, eluting with a 10-100% EtOAc/Hexanes gradient over 15 minutes. The fractions from each run which contained the desired product were combined to yield the title compound (1.4 g, 4.10 mmol, 61.3% yield) as a colorless foam. MS (ESI+)=268, (M+H-tBuOH)+.

reactant | (2-bromo-5-chlorophenyl)methanol | 6.68 mmol, 1.48 g | BrC1=C(C=C(C=C1)Cl)CO | C7H6BrClO
reactant | n-BuLi | 14.03 mmol, 1.6 M, 8.77 mL | [Li]CCCC
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 7.35 mmol, 1.465 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-chloro-2-(hydroxymethyl)phenyl)-4-hydroxypiperidine-1-carboxylate | 4.10 mmol, 1.4 g, 61.3% yield | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O)CO | C17H24ClNO4
